US05364878
3,4-Dihydro-2,2-dimethyl-7-methoxy-6-(p-tolylsulfonyl)-trans-4-(2-oxo-1-pyrrolidinyl)-2H-benzo[b]pyran-3-ol
4,3 g (0.0097 mole) of 3-bromo-3,4-dihydro-2,2-dimethyl-7-methoxy-6-(p-tolylsulfonyl)-2H-benzo[b]pyran-4-ol are dissolved in 28 ml of dimethyl sulfoxide, and 3.5 ml of 2-pyrrolidinone (0.0465 mole) and 0.78 g of sodium hydride (80% suspension in oil) (0.0325 mole) are added, and the mixture is stirred at 40° C. for 3 hours. It is left to stand overnight and then poured onto ice-water and filtered with suction. The precipitate is recrystallized from isopropanol. White crystals of melting point: 263°-65° C.

reactant | 3-bromo-3,4-dihydro-2,2-dimethyl-7-methoxy-6-(p-tolylsulfonyl)-2H-benzo[b]pyran-4-ol | 0.0097 mole, 4,3 g | BrC1C(C2=C(OC1(C)C)C=C(C(=C2)S(=O)(=O)C2=CC=C(C=C2)C)OC)O | C19H21BrO5S
reactant | 2-pyrrolidinone | 0.0465 mole, 3.5 ml | N1C(CCC1)=O | C4H7NO
reactant | sodium hydride | 0.0325 mole, 0.78 g | [H-].[Na+]
reactant | dimethyl sulfoxide | 28 ml | CS(=O)C | C2H6OS
product | 3,4-Dihydro-2,2-dimethyl-7-methoxy-6-(p-tolylsulfonyl)-trans-4-(2-oxo-1-pyrrolidinyl)-2H-benzo[b]pyran-3-ol | CC1([C@H]([C@@H](C2=C(O1)C=C(C(=C2)S(=O)(=O)C2=CC=C(C=C2)C)OC)N2C(CCC2)=O)O)C | C23H27NO6S
